US05504236
Preparation of α-hydroxy-(2,4,6-trimethylbenzyl)-diphenyl phosphine oxide (from diphenyl phosphine oxide)
To 101 g (0.5 mol) of diphenyl phosphine oxide and 74 g (0.5 mol) of 2,4,6-trimethylbenzaldehyde in 150 mL of toluene there were added 0.5 g of a 30 wt % strength sodium methylate solution. The product began to crystallize after 10 minutes and was isolated in the usual manner. Yield: 98%.

reactant | diphenyl phosphine oxide | 0.5 mol, 101 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
reactant | 2,4,6-trimethylbenzaldehyde | 0.5 mol, 74 g | CC1=C(C=O)C(=CC(=C1)C)C | C10H12O
reactant | sodium methylate | C[O-].[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | α-hydroxy-(2,4,6-trimethylbenzyl)-diphenyl phosphine oxide | Yield: 98% | OC(C1=C(C=C(C=C1C)C)C)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C22H23O2P
